US20010027196A1
5-Bromo-4-butylsulfanyl-6-furan-2-yl-pyrimidin-2-yl-amine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine, butanethiol and DBU in dioxane. EI-MS m/e (%): 329 (M{81Br}+, 29), 327 (M{79Br}+, 28), 287 ([M{81Br}-C3H6]+, 46), 285 ([M{79Br}—C3H6]+, 45), ), 273 ([M{81Br}—C4H8]+, 98), 271 ([M{79Br}—C4H8]+, 99), 248 ([M—Br]+, 54), 206 (100), 192 (34), 117 (34).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | butanethiol | C(CCC)S | C4H10S
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-4-butylsulfanyl-6-furan-2-yl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1C=1OC=CC1)N)SCCCC | C12H14BrN3OS
